US08486979B2
5-(3-chloro-4-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-chloro-4-fluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.54 (t, J=8.8 Hz, 1 H), 7.64 (ddd, J=8.1, 5.0, 0.8 Hz, 1 H), 8.24 (ddd, J=8.6, 4.6, 2.0 Hz, 1 H), 8.39 (dd, J=7.0, 2.2 Hz, 1 H), 8.55 (dt, J=8.1, 1.9 Hz, 1 H), 8.74 (dd, J=4.9, 1.5 Hz, 1 H), 9.29 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 276 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-chloro-4-fluorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
reactant | NH3 | N | H3N
product | 5-(3-chloro-4-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | ClC=1C=C(C=CC1F)C1=NC(=NO1)C=1C=NC=CC1 | C13H7ClFN3O
